US08865726B2
(S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-1-(piperidin-4-ylmethyl)imidazolidin-2-one hydrochloride
A mixture of (S)-tert-butyl 4-((4-isopropyl-2-oxo-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-1-yl)methyl)piperidine-1-carboxylate (99 mg, 0.14 mmol) and EtOH/6N aqueous HCl (1:2, 2 mL total) was heated at reflux for 2 hours. After cooling, the reaction mixture was neutralized by slow addition of saturated aqueous NaHCO3 solution. The mixture was extracted with 10% THF in dichloromethane. The combined extracts were washed with brine, dried and concentrated. The residue was purified by column chromatography (20% 7N ammonia in MeOH/dichloromethane) to give the free base, which was converted to HCl salt (38 mg, 53%) by treatment with 2N HCl in ether. LCMS (APCI+) m/z 486.8 [M+H]+.

reactant | (S)-tert-butyl 4-((4-isopropyl-2-oxo-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-1-yl)methyl)piperidine-1-carboxylate | 0.14 mmol, 99 mg | C(C)(C)[C@@H]1N(C(N(C1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C37H53N9O4Si
reactant | EtOH | 6N, 2 mL | CCO | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HCl | 38 mg | Cl | ClH
reactant | HCl | 2N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyl-1-(piperidin-4-ylmethyl)imidazolidin-2-one hydrochloride | Cl.N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(N(C[C@@H]2C(C)C)CC2CCNCC2)=O | InChI=1S/C26H31N9O.ClH/c1-17(2)22-15-33(14-18-7-10-27-11-8-18)26(36)35(22)23-9-12-34-25(31-23)21(13-30-34)19-3-5-20(6-4-19)24-28-16-29-32-24;/h3-6,9,12-13,16-18,22,27H,7-8,10-11,14-15H2,1-2H3,(H,28,29,32);1H/t22-;/m1./s1
